US06821965B1
4-chloro-N-(3-fluoro-5-morpholinophenyl)-3-[6-(4-methylpiperazin-1-yl)pyrid-3-ylcarbonylamino]benzamide
A mixture of 4-chloro-3-(6-chloropyrid-3-ylcarbonylamino)-N-(3-fluoro-5-morpholinophenyl)benzamide (0.2 g) and N-methylpiperazine (1.5 g) was stirred and heated to 110° C. for 20 hours. The mixture was cooled to ambient temperature. Water was added and the mixture was stirred at ambient temperature for 30 minutes. The resultant precipitate was isolated, washed with water and dried. There was thus obtained the title compound (0.18 g); Mass Spectrum: M+H+ 553.

reactant | 4-chloro-3-(6-chloropyrid-3-ylcarbonylamino)-N-(3-fluoro-5-morpholinophenyl)benzamide | 0.2 g | ClC1=C(C=C(C(=O)NC2=CC(=CC(=C2)N2CCOCC2)F)C=C1)NC(=O)C=1C=NC(=CC1)Cl | C23H19Cl2FN4O3
reactant | N-methylpiperazine | 1.5 g | CN1CCNCC1 | C5H12N2
solvent | Water | O | H2O
product | 4-chloro-N-(3-fluoro-5-morpholinophenyl)-3-[6-(4-methylpiperazin-1-yl)pyrid-3-ylcarbonylamino]benzamide | ClC1=C(C=C(C(=O)NC2=CC(=CC(=C2)N2CCOCC2)F)C=C1)NC(=O)C=1C=NC(=CC1)N1CCN(CC1)C | C28H30ClFN6O3
